US05393491
N,N-Dimethyl-N'-Tetradecanoyl-1,3-Propylenediamine (Compound No. 4)
2.0 g. (0.0196 moles) of 3-dimethylaminopropylamine in 40 ml chloroform was added dropwise to an ice cold chloroform solution (50 ml) of myristoyl chloride (4.17 g., 0.0169 moles). After addition, the ice bath was removed and the solution was stirred for 2 hours. A 25 ml aqueous sodium bicarbonate solution was added and stirred for 30 minutes. The organic layer was then washed with 30 ml aqueous sodium bicarbonate/sodium chloride solution and dried with magnesium sulfate. The solution was concentrated in vacuo and the amide was recrystallized in ethyl acetate to yield 3.29 g. (0.0105 moles, 62.3%) of the subject compound.

reactant | 3-dimethylaminopropylamine | 0.0196 moles | CN(CCCN)C | C5H14N2
reactant | myristoyl chloride | 0.0169 moles, 4.17 g | C(CCCCCCCCCCCCC)(=O)Cl | C14H27ClO
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-Dimethyl-N'-Tetradecanoyl-1,3-Propylenediamine | CN(CCCNC(CCCCCCCCCCCCC)=O)C | C19H40N2O
